US04555509
3,4-Dihydro-2,2-dimethyl-6-formyl-trans-4-(2-oxo-1-pyrroli-dinyl)-2H-benzo[b]pyran-3-ol
To a solution of 3,4-dihydro-2,2-dimethyl-3,4-epoxy-6-formyl-2H-benzo[b]pyran (0.48 g, prepared using the method described in U.K. Pat. No. 1.511.187) and 2-pyrrolidone (0.20 g) in dry dimethyl sulphoxide (30 ml) was added sodium hydride (0.07 g, 80% dispersion in oil). After stirring at room temperature for 4 hours, water was added and the aqueous phase immediately extracted with ethyl acetate. The organic layer was washed with water and brine and dried over magnesium sulphate. Filtration, evaporation and chromatography (chromatotron, pentane-ethyl acetate gradient elution, 2 mm silica gel) gave a fraction (150 mgs) which was recrystallised to give the title compound as crystals (80 mgs) of m.p. 196°-197.5° C.

reactant | 3,4-dihydro-2,2-dimethyl-3,4-epoxy-6-formyl-2H-benzo[b]pyran | CC1(C2C(C3=C(O1)C=CC(=C3)C=O)O2)C | C12H12O3
reactant | 2-pyrrolidone | 0.20 g | N1C(CCC1)=O | C4H7NO
reactant | sodium hydride | 0.07 g | [H-].[Na+]
reactant | water | O | H2O
solvent | dimethyl sulphoxide | 30 ml | CS(=O)C | C2H6OS
product | 3,4-Dihydro-2,2-dimethyl-6-formyl-trans-4-(2-oxo-1-pyrroli-dinyl)-2H-benzo[b]pyran-3-ol | 80 mgs | CC1([C@H]([C@@H](C2=C(O1)C=CC(=C2)C=O)N2C(CCC2)=O)O)C | C16H19NO4
